US05981522
Into 9 ml of methanol were dissolved 0.69 g of 4-piperidone hydrochloride monohydrate, 0.74 ml of trimethyl orthoformate and 86 mg of p-toluenesulfonic acid monohydrate, and the reaction was conducted at room temperature for 24 hours. The reaction mixture was evaporated under reduced pressure to remove the solvent. The residue was dissolved into 2 ml of N,N-dimethylacetamide and admixed with 1.4 ml of triethylamine to give a solution of 4,4-dimethoxypiperidine.

reactant | 4-piperidone hydrochloride monohydrate | 0.69 g | O.Cl.N1CCC(CC1)=O
reactant | trimethyl orthoformate | 0.74 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 86 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 9 ml | CO | CH4O
product | 4,4-dimethoxypiperidine | COC1(CCNCC1)OC | C7H15NO2
